US04045556
To 15 ml of water are added 165 mg of anhydrous sodium acetate and 100 mg of 5% palladium on charcoal. On a shaking apparatus the mixture is treated with hydrogen until the absorption stops. Then a solution of 850 mg of 5-chloro orotyl-L-histidyl-L-prolinamide in 30 ml of water is added and shaking in a hydrogen atmosphere is continued at normal pressure and room temperature until 2m moles (about 50 ml) of hydrogen are consumed. The catalyst is filtered off, the filtrate is extracted two times with ether and then the aqueous layer is evaporated at room temperature under reduced pressure to a volume of about 2 to 3 ml and diluted with two times it volume of methanol. This solution is poured on a column of 150 g of basic aluminium oxide, followed by elution with methanol/water (2:1), controlled by measuring the ultraviolet absorption spectrum at 254 nm. The fractions containing the main product are combined, evaporated under reduced pressure and finally lyophylized. Thus 780 mg (96 % of the theoretical yield) of orotyl-L-histidyl-L-prolinamide hydrate (i.e., the same product as prepared in Example 2) are obtained.

reactant | sodium acetate | 165 mg | C(C)(=O)[O-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 5-chloro orotyl-L-histidyl-L-prolinamide | 850 mg | ClC1=C(C(=O)N[C@@H](CC2=CNC=N2)C(=O)N2[C@H](C(=O)N)CCC2)NC(NC1=O)=O | C16H18ClN7O5
reactant | hydrogen | about 50 ml | [H][H] | H2
catalyst | palladium on charcoal | 100 mg | [Pd] | Pd
solvent | water | 30 ml | O | H2O
solvent | water | 15 ml | O | H2O
product | orotyl-L-histidyl-L-prolinamide hydrate | O.C(C1=CC(=O)NC(=O)N1)(=O)N[C@@H](CC1=CNC=N1)C(=O)N1[C@H](C(=O)N)CCC1 | InChI=1S/C16H19N7O5.H2O/c17-13(25)11-2-1-3-23(11)15(27)10(4-8-6-18-7-19-8)20-14(26)9-5-12(24)22-16(28)21-9;/h5-7,10-11H,1-4H2,(H2,17,25)(H,18,19)(H,20,26)(H2,21,22,24,28);1H2/t10-,11-;/m0./s1
